US07173031B2
D) 2-Methyl-1H-pyrrolo[2,3-b]pyridin-4-ol
A mixure of 4-chloro-2-methyl-1H-pyrrolo[2,3-b]pyridine (120 mg, 0.72 mmol) and sodium acetate (150 mg, 1.83 mmol) in acetic acid (1.5 mL) was microwaved at 200° C. for 40 minutes. The mixture was purified by preparative HPLC and the appropriate fractions were concentrated in vacuo and lyophilized to afford the title compound (90 mg, 47%). 1H NMR (CD3OD) δ 8.09 (d, 1H, J=5.5 Hz), 6.80 (d, 1H, J=5.5 Hz), 6.49 (s, 1H), 2.46 (s, 3H); MS(ESI+) m/z 149 (M+H)+.

reactant | 4-chloro-2-methyl-1H-pyrrolo[2,3-b]pyridine | 0.72 mmol, 120 mg | ClC1=C2C(=NC=C1)NC(=C2)C | C8H7ClN2
reactant | sodium acetate | 1.83 mmol, 150 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 2-Methyl-1H-pyrrolo[2,3-b]pyridin-4-ol | 90 mg, 47% | CC1=CC2=C(N=CC=C2O)N1 | C8H8N2O
